* SPICE3 file created from user_analog_project_wrapper.ext - technology: sky130B

.subckt dram_cell storage WWL WBL RWL RBL VSUBS
X0 RWL storage RBL VSUBS sky130_fd_pr__nfet_01v8 ad=3e+11p pd=2.6e+06u as=3.5e+11p ps=2.7e+06u w=1e+06u l=150000u
X1 storage WWL WBL VSUBS sky130_fd_pr__nfet_01v8 ad=3.5e+11p pd=2.7e+06u as=3e+11p ps=2.6e+06u w=1e+06u l=150000u
.ends

.subckt dram_array dram_cell_1/WWL dram_cell_0/WBL dram_cell_1/RWL dram_cell_0/RBL
+ dram_cell_1/WBL dram_cell_1/RBL VSUBS dram_cell_0/RWL
Xdram_cell_0 dram_cell_0/storage dram_cell_1/WWL dram_cell_0/WBL dram_cell_0/RWL dram_cell_0/RBL
+ VSUBS dram_cell
Xdram_cell_1 dram_cell_1/storage dram_cell_1/WWL dram_cell_1/WBL dram_cell_1/RWL dram_cell_1/RBL
+ VSUBS dram_cell
.ends

.subckt x4bit_dram dram_array_0/dram_cell_1/RBL dram_array_1/dram_cell_0/RWL dram_array_1/dram_cell_1/WWL
+ dram_array_1/dram_cell_0/WBL dram_array_1/dram_cell_1/RWL dram_array_0/dram_cell_0/WBL
+ dram_array_1/dram_cell_0/RBL dram_array_1/dram_cell_1/WBL dram_array_0/dram_cell_0/RBL
+ dram_array_0/dram_cell_1/WBL dram_array_1/dram_cell_1/RBL VSUBS
Xdram_array_0 dram_array_1/dram_cell_1/WWL dram_array_0/dram_cell_0/WBL dram_array_1/dram_cell_0/RWL
+ dram_array_0/dram_cell_0/RBL dram_array_0/dram_cell_1/WBL dram_array_0/dram_cell_1/RBL
+ VSUBS dram_array_1/dram_cell_0/RWL dram_array
Xdram_array_1 dram_array_1/dram_cell_1/WWL dram_array_1/dram_cell_0/WBL dram_array_1/dram_cell_1/RWL
+ dram_array_1/dram_cell_0/RBL dram_array_1/dram_cell_1/WBL dram_array_1/dram_cell_1/RBL
+ VSUBS dram_array_1/dram_cell_0/RWL dram_array
.ends

.subckt x8bit_dram 4bit_dram_1/dram_array_1/dram_cell_1/RWL 4bit_dram_1/dram_array_0/dram_cell_0/WBL
+ 4bit_dram_0/dram_array_1/dram_cell_0/WBL 4bit_dram_1/dram_array_1/dram_cell_0/RBL
+ 4bit_dram_1/dram_array_1/dram_cell_1/WBL 4bit_dram_0/dram_array_0/dram_cell_0/WBL
+ 4bit_dram_1/dram_array_0/dram_cell_0/RBL 4bit_dram_0/dram_array_1/dram_cell_0/RBL
+ 4bit_dram_1/dram_array_0/dram_cell_1/WBL 4bit_dram_0/dram_array_1/dram_cell_1/WBL
+ 4bit_dram_1/dram_array_1/dram_cell_1/RBL 4bit_dram_0/dram_array_0/dram_cell_0/RBL
+ 4bit_dram_0/dram_array_0/dram_cell_1/WBL 4bit_dram_0/dram_array_1/dram_cell_1/RBL
+ 4bit_dram_1/dram_array_0/dram_cell_1/RBL 4bit_dram_1/dram_array_1/dram_cell_1/WWL
+ 4bit_dram_0/dram_array_0/dram_cell_1/RBL 4bit_dram_1/dram_array_1/dram_cell_0/WBL
+ VSUBS
X4bit_dram_1 4bit_dram_1/dram_array_0/dram_cell_1/RBL 4bit_dram_1/dram_array_1/dram_cell_1/RWL
+ 4bit_dram_1/dram_array_1/dram_cell_1/WWL 4bit_dram_1/dram_array_1/dram_cell_0/WBL
+ 4bit_dram_1/dram_array_1/dram_cell_1/RWL 4bit_dram_1/dram_array_0/dram_cell_0/WBL
+ 4bit_dram_1/dram_array_1/dram_cell_0/RBL 4bit_dram_1/dram_array_1/dram_cell_1/WBL
+ 4bit_dram_1/dram_array_0/dram_cell_0/RBL 4bit_dram_1/dram_array_0/dram_cell_1/WBL
+ 4bit_dram_1/dram_array_1/dram_cell_1/RBL VSUBS x4bit_dram
X4bit_dram_0 4bit_dram_0/dram_array_0/dram_cell_1/RBL 4bit_dram_1/dram_array_1/dram_cell_1/RWL
+ 4bit_dram_1/dram_array_1/dram_cell_1/WWL 4bit_dram_0/dram_array_1/dram_cell_0/WBL
+ 4bit_dram_1/dram_array_1/dram_cell_1/RWL 4bit_dram_0/dram_array_0/dram_cell_0/WBL
+ 4bit_dram_0/dram_array_1/dram_cell_0/RBL 4bit_dram_0/dram_array_1/dram_cell_1/WBL
+ 4bit_dram_0/dram_array_0/dram_cell_0/RBL 4bit_dram_0/dram_array_0/dram_cell_1/WBL
+ 4bit_dram_0/dram_array_1/dram_cell_1/RBL VSUBS x4bit_dram
.ends

.subckt adc V_IN BIAS2 BIAS1 V_RAMP GRAY_INx1x GRAY_INx0x OUTx0x GRAY_INx2x GRAY_INx3x
+ OUTx3x GRAY_INx4x GRAY_INx5x OUTx5x GRAY_INx6x GRAY_INx7x OUTx7x OUTx1x READ OUTx6x
+ VDD GND OUTx4x OUTx2x
X8bit_dram_0 READ GRAY_INx4x GRAY_INx2x OUTx6x GRAY_INx7x GRAY_INx0x OUTx4x OUTx2x
+ GRAY_INx5x GRAY_INx3x OUTx7x OUTx0x GRAY_INx1x OUTx3x OUTx5x 8bit_dram_0/4bit_dram_1/dram_array_1/dram_cell_1/WWL
+ OUTx1x GRAY_INx6x GND x8bit_dram
X0 VDD a_1000_n1450# a_1000_n1450# VDD sky130_fd_pr__pfet_01v8_lvt ad=1.45e+12p pd=1.09e+07u as=3.5e+11p ps=2.7e+06u w=1e+06u l=1e+06u
X1 8bit_dram_0/4bit_dram_1/dram_array_1/dram_cell_1/WWL a_1870_n1400# GND GND sky130_fd_pr__nfet_01v8 ad=4e+11p pd=2.8e+06u as=2.5e+07p ps=5000u w=1e+06u l=150000u
X2 a_1720_n1450# V_RAMP a_1100_n1450# GND sky130_fd_pr__nfet_01v8_lvt ad=3.5e+11p pd=2.7e+06u as=8.8e+11p ps=7.1e+06u w=1e+06u l=150000u
X3 a_1870_n1400# a_1720_n1450# VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=3.5e+11p pd=2.7e+06u as=0p ps=0u w=1e+06u l=450000u
X4 a_1100_n1450# V_IN a_1000_n1450# GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=3.5e+11p ps=2.7e+06u w=1e+06u l=150000u
X5 8bit_dram_0/4bit_dram_1/dram_array_1/dram_cell_1/WWL a_1870_n1400# VDD VDD sky130_fd_pr__pfet_01v8 ad=3.5e+11p pd=2.7e+06u as=0p ps=0u w=1e+06u l=200000u
X6 a_1100_n1450# BIAS1 GND GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=450000u l=1e+06u
X7 a_1870_n1400# BIAS2 GND GND sky130_fd_pr__nfet_01v8_lvt ad=3.5e+11p pd=2.7e+06u as=0p ps=0u w=1e+06u l=1e+06u
X8 a_1720_n1450# a_1000_n1450# VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=3.5e+11p pd=2.7e+06u as=0p ps=0u w=1e+06u l=1e+06u
C0 VDD GND 2.71fF
C1 8bit_dram_0/4bit_dram_1/dram_array_1/dram_cell_1/WWL GND 2.33fF
.ends

.subckt bias_cell NB1 NB2 OUT_IB AMP_IB SF_IB BIAS1_OUT BIAS2_OUT ADC_ON BIAS1 BIAS2
+ SA_IREF_OUT SA_IREF VDD GND
X0 BIAS1 ADC_ON BIAS1_OUT GND sky130_fd_pr__nfet_01v8 ad=2.5e+12p pd=1.1e+07u as=5.9425e+12p ps=1.514e+07u w=5e+06u l=1e+06u
X1 NB1 NB1 GND GND sky130_fd_pr__nfet_01v8_lvt ad=3.5e+11p pd=2.7e+06u as=1.272e+13p ps=4.894e+07u w=1e+06u l=1.2e+06u
X2 BIAS2_OUT BIAS2_OUT GND GND sky130_fd_pr__nfet_01v8_lvt ad=5.9725e+12p pd=1.52e+07u as=0p ps=0u w=1e+06u l=1e+06u
X3 SA_IREF_OUT SA_IREF_OUT GND GND sky130_fd_pr__nfet_01v8 ad=5.9905e+12p pd=1.53e+07u as=0p ps=0u w=500000u l=1e+06u
X4 NB2 NB2 GND GND sky130_fd_pr__nfet_01v8_lvt ad=3.5e+11p pd=2.7e+06u as=0p ps=0u w=1e+06u l=1.2e+06u
X5 BIAS2 ADC_ON BIAS2_OUT GND sky130_fd_pr__nfet_01v8 ad=2.5e+12p pd=1.1e+07u as=0p ps=0u w=5e+06u l=1e+06u
X6 AMP_IB AMP_IB GND GND sky130_fd_pr__nfet_01v8_lvt ad=5.6e+12p pd=1.74e+07u as=0p ps=0u w=8e+06u l=2e+06u
X7 OUT_IB OUT_IB GND GND sky130_fd_pr__nfet_01v8_lvt ad=5.6e+12p pd=1.74e+07u as=0p ps=0u w=8e+06u l=2e+06u
X8 SA_IREF ADC_ON SA_IREF_OUT GND sky130_fd_pr__nfet_01v8 ad=2.5e+12p pd=1.1e+07u as=0p ps=0u w=5e+06u l=1e+06u
X9 BIAS1_OUT BIAS1_OUT GND GND sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=420000u l=1e+06u
X10 SF_IB SF_IB VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=5.5e+11p pd=3.1e+06u as=4.5e+11p ps=2.9e+06u w=1e+06u l=1e+06u
C0 SA_IREF_OUT GND 2.47fF
C1 BIAS1_OUT GND 2.00fF
C2 AMP_IB GND 4.02fF
C3 OUT_IB GND 4.01fF
C4 BIAS2_OUT GND 2.10fF
C5 ADC_ON GND 2.19fF
C6 VDD GND 3.12fF
.ends

.subckt sens_amp V_IN SA_IREF OUT REF VDD GND
X0 GN GN VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=3.5e+11p pd=2.7e+06u as=1.8e+12p ps=1.22e+07u w=1e+06u l=500000u
X1 net1 V_IN net2 GND sky130_fd_pr__nfet_01v8_lvt ad=1.4e+12p pd=8.7e+06u as=1.775e+12p ps=1.05e+07u w=4e+06u l=150000u
X2 net2 REF GN GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=1.45e+12p ps=9.1e+06u w=4e+06u l=150000u
X3 net1 GN VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=3.5e+11p pd=2.7e+06u as=0p ps=0u w=1e+06u l=500000u
X4 net2 SA_IREF GND GND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=6e+11p ps=4.7e+06u w=500000u l=1e+06u
X5 OUT net1 VDD VDD sky130_fd_pr__pfet_01v8_lvt ad=1.05e+12p pd=6.7e+06u as=0p ps=0u w=3e+06u l=350000u
X6 OUT net1 GND GND sky130_fd_pr__nfet_01v8_lvt ad=3.5e+11p pd=2.7e+06u as=0p ps=0u w=1e+06u l=150000u
C0 VDD GND 2.64fF
.ends

.subckt 8bit_sens INx1x INx0x INx2x INx3x INx4x INx5x INx6x INx7x OUTx7x OUTx6x OUTx5x
+ OUTx4x OUTx3x OUTx2x OUTx1x OUTx0x SA_IREF VREF VDD GND
Xsens_amp_2 INx5x SA_IREF OUTx5x VREF VDD GND sens_amp
Xsens_amp_3 INx4x SA_IREF OUTx4x VREF VDD GND sens_amp
Xsens_amp_4 INx3x SA_IREF OUTx3x VREF VDD GND sens_amp
Xsens_amp_5 INx2x SA_IREF OUTx2x VREF VDD GND sens_amp
Xsens_amp_6 INx1x SA_IREF OUTx1x VREF VDD GND sens_amp
Xsens_amp_7 INx0x SA_IREF OUTx0x VREF VDD GND sens_amp
Xsens_amp_0 INx7x SA_IREF OUTx7x VREF VDD GND sens_amp
Xsens_amp_1 INx6x SA_IREF OUTx6x VREF VDD GND sens_amp
C0 VDD GND 16.99fF
C1 SA_IREF GND 6.02fF
.ends

.subckt user_analog_project_wrapper gpio_analog[0] gpio_analog[10] gpio_analog[11]
+ gpio_analog[12] gpio_analog[13] gpio_analog[14] gpio_analog[15] gpio_analog[16]
+ gpio_analog[17] gpio_analog[1] gpio_analog[2] gpio_analog[3] gpio_analog[4] gpio_analog[5]
+ gpio_analog[6] gpio_analog[7] gpio_analog[8] gpio_analog[9] gpio_noesd[0] gpio_noesd[10]
+ gpio_noesd[11] gpio_noesd[12] gpio_noesd[13] gpio_noesd[14] gpio_noesd[15] gpio_noesd[16]
+ gpio_noesd[17] gpio_noesd[1] gpio_noesd[2] gpio_noesd[3] gpio_noesd[4] gpio_noesd[5]
+ gpio_noesd[6] gpio_noesd[7] gpio_noesd[8] gpio_noesd[9] io_analog[0] io_analog[10]
+ io_analog[1] io_analog[2] io_analog[3] io_analog[7] io_analog[8] io_analog[9] io_analog[4]
+ io_analog[5] io_analog[6] io_clamp_high[0] io_clamp_high[1] io_clamp_high[2] io_clamp_low[0]
+ io_clamp_low[1] io_clamp_low[2] io_in[0] io_in[10] io_in[11] io_in[12] io_in[13]
+ io_in[14] io_in[15] io_in[16] io_in[17] io_in[18] io_in[19] io_in[1] io_in[20] io_in[21]
+ io_in[22] io_in[23] io_in[24] io_in[25] io_in[26] io_in[2] io_in[3] io_in[4] io_in[5]
+ io_in[6] io_in[7] io_in[8] io_in[9] io_in_3v3[0] io_in_3v3[10] io_in_3v3[11] io_in_3v3[12]
+ io_in_3v3[13] io_in_3v3[14] io_in_3v3[15] io_in_3v3[16] io_in_3v3[17] io_in_3v3[18]
+ io_in_3v3[19] io_in_3v3[1] io_in_3v3[20] io_in_3v3[21] io_in_3v3[22] io_in_3v3[23]
+ io_in_3v3[24] io_in_3v3[25] io_in_3v3[26] io_in_3v3[2] io_in_3v3[3] io_in_3v3[4]
+ io_in_3v3[5] io_in_3v3[6] io_in_3v3[7] io_in_3v3[8] io_in_3v3[9] io_oeb[0] io_oeb[10]
+ io_oeb[11] io_oeb[12] io_oeb[13] io_oeb[14] io_oeb[15] io_oeb[16] io_oeb[17] io_oeb[18]
+ io_oeb[19] io_oeb[1] io_oeb[20] io_oeb[21] io_oeb[22] io_oeb[23] io_oeb[24] io_oeb[25]
+ io_oeb[26] io_oeb[2] io_oeb[3] io_oeb[4] io_oeb[5] io_oeb[6] io_oeb[7] io_oeb[8]
+ io_oeb[9] io_out[0] io_out[10] io_out[11] io_out[12] io_out[13] io_out[14] io_out[15]
+ io_out[16] io_out[17] io_out[18] io_out[19] io_out[1] io_out[20] io_out[21] io_out[22]
+ io_out[23] io_out[24] io_out[25] io_out[26] io_out[2] io_out[3] io_out[4] io_out[5]
+ io_out[6] io_out[7] io_out[8] io_out[9] la_data_in[0] la_data_in[100] la_data_in[101]
+ la_data_in[102] la_data_in[103] la_data_in[104] la_data_in[105] la_data_in[106]
+ la_data_in[107] la_data_in[108] la_data_in[109] la_data_in[10] la_data_in[110] la_data_in[111]
+ la_data_in[112] la_data_in[113] la_data_in[114] la_data_in[115] la_data_in[116]
+ la_data_in[117] la_data_in[118] la_data_in[119] la_data_in[11] la_data_in[120] la_data_in[121]
+ la_data_in[122] la_data_in[123] la_data_in[124] la_data_in[125] la_data_in[126]
+ la_data_in[127] la_data_in[12] la_data_in[13] la_data_in[14] la_data_in[15] la_data_in[16]
+ la_data_in[17] la_data_in[18] la_data_in[19] la_data_in[1] la_data_in[20] la_data_in[21]
+ la_data_in[22] la_data_in[23] la_data_in[24] la_data_in[25] la_data_in[26] la_data_in[27]
+ la_data_in[28] la_data_in[29] la_data_in[2] la_data_in[30] la_data_in[31] la_data_in[32]
+ la_data_in[33] la_data_in[34] la_data_in[35] la_data_in[36] la_data_in[37] la_data_in[38]
+ la_data_in[39] la_data_in[3] la_data_in[40] la_data_in[41] la_data_in[42] la_data_in[43]
+ la_data_in[44] la_data_in[45] la_data_in[46] la_data_in[47] la_data_in[48] la_data_in[49]
+ la_data_in[4] la_data_in[50] la_data_in[51] la_data_in[52] la_data_in[53] la_data_in[54]
+ la_data_in[55] la_data_in[56] la_data_in[57] la_data_in[58] la_data_in[59] la_data_in[5]
+ la_data_in[60] la_data_in[61] la_data_in[62] la_data_in[63] la_data_in[64] la_data_in[65]
+ la_data_in[66] la_data_in[67] la_data_in[68] la_data_in[69] la_data_in[6] la_data_in[70]
+ la_data_in[71] la_data_in[72] la_data_in[73] la_data_in[74] la_data_in[75] la_data_in[76]
+ la_data_in[77] la_data_in[78] la_data_in[79] la_data_in[7] la_data_in[80] la_data_in[81]
+ la_data_in[82] la_data_in[83] la_data_in[84] la_data_in[85] la_data_in[86] la_data_in[87]
+ la_data_in[88] la_data_in[89] la_data_in[8] la_data_in[90] la_data_in[91] la_data_in[92]
+ la_data_in[93] la_data_in[94] la_data_in[95] la_data_in[96] la_data_in[97] la_data_in[98]
+ la_data_in[99] la_data_in[9] la_data_out[0] la_data_out[100] la_data_out[101] la_data_out[102]
+ la_data_out[103] la_data_out[104] la_data_out[105] la_data_out[106] la_data_out[107]
+ la_data_out[108] la_data_out[109] la_data_out[10] la_data_out[110] la_data_out[111]
+ la_data_out[112] la_data_out[113] la_data_out[114] la_data_out[115] la_data_out[116]
+ la_data_out[117] la_data_out[118] la_data_out[119] la_data_out[11] la_data_out[120]
+ la_data_out[121] la_data_out[122] la_data_out[123] la_data_out[124] la_data_out[125]
+ la_data_out[126] la_data_out[127] la_data_out[12] la_data_out[13] la_data_out[14]
+ la_data_out[15] la_data_out[16] la_data_out[17] la_data_out[18] la_data_out[19]
+ la_data_out[1] la_data_out[20] la_data_out[21] la_data_out[22] la_data_out[23] la_data_out[24]
+ la_data_out[25] la_data_out[26] la_data_out[27] la_data_out[28] la_data_out[29]
+ la_data_out[2] la_data_out[30] la_data_out[31] la_data_out[32] la_data_out[33] la_data_out[34]
+ la_data_out[35] la_data_out[36] la_data_out[37] la_data_out[38] la_data_out[39]
+ la_data_out[3] la_data_out[40] la_data_out[41] la_data_out[42] la_data_out[43] la_data_out[44]
+ la_data_out[45] la_data_out[46] la_data_out[47] la_data_out[48] la_data_out[49]
+ la_data_out[4] la_data_out[50] la_data_out[51] la_data_out[52] la_data_out[53] la_data_out[54]
+ la_data_out[55] la_data_out[56] la_data_out[57] la_data_out[58] la_data_out[59]
+ la_data_out[5] la_data_out[60] la_data_out[61] la_data_out[62] la_data_out[63] la_data_out[64]
+ la_data_out[65] la_data_out[66] la_data_out[67] la_data_out[68] la_data_out[69]
+ la_data_out[6] la_data_out[70] la_data_out[71] la_data_out[72] la_data_out[73] la_data_out[74]
+ la_data_out[75] la_data_out[76] la_data_out[77] la_data_out[78] la_data_out[79]
+ la_data_out[7] la_data_out[80] la_data_out[81] la_data_out[82] la_data_out[83] la_data_out[84]
+ la_data_out[85] la_data_out[86] la_data_out[87] la_data_out[88] la_data_out[89]
+ la_data_out[8] la_data_out[90] la_data_out[91] la_data_out[92] la_data_out[93] la_data_out[94]
+ la_data_out[95] la_data_out[96] la_data_out[97] la_data_out[98] la_data_out[99]
+ la_data_out[9] la_oenb[0] la_oenb[100] la_oenb[101] la_oenb[102] la_oenb[103] la_oenb[104]
+ la_oenb[105] la_oenb[106] la_oenb[107] la_oenb[108] la_oenb[109] la_oenb[10] la_oenb[110]
+ la_oenb[111] la_oenb[112] la_oenb[113] la_oenb[114] la_oenb[115] la_oenb[116] la_oenb[117]
+ la_oenb[118] la_oenb[119] la_oenb[11] la_oenb[120] la_oenb[121] la_oenb[122] la_oenb[123]
+ la_oenb[124] la_oenb[125] la_oenb[126] la_oenb[127] la_oenb[12] la_oenb[13] la_oenb[14]
+ la_oenb[15] la_oenb[16] la_oenb[17] la_oenb[18] la_oenb[19] la_oenb[1] la_oenb[20]
+ la_oenb[21] la_oenb[22] la_oenb[23] la_oenb[24] la_oenb[25] la_oenb[26] la_oenb[27]
+ la_oenb[28] la_oenb[29] la_oenb[2] la_oenb[30] la_oenb[31] la_oenb[32] la_oenb[33]
+ la_oenb[34] la_oenb[35] la_oenb[36] la_oenb[37] la_oenb[38] la_oenb[39] la_oenb[3]
+ la_oenb[40] la_oenb[41] la_oenb[42] la_oenb[43] la_oenb[44] la_oenb[45] la_oenb[46]
+ la_oenb[47] la_oenb[48] la_oenb[49] la_oenb[4] la_oenb[50] la_oenb[51] la_oenb[52]
+ la_oenb[53] la_oenb[54] la_oenb[55] la_oenb[56] la_oenb[57] la_oenb[58] la_oenb[59]
+ la_oenb[5] la_oenb[60] la_oenb[61] la_oenb[62] la_oenb[63] la_oenb[64] la_oenb[65]
+ la_oenb[66] la_oenb[67] la_oenb[68] la_oenb[69] la_oenb[6] la_oenb[70] la_oenb[71]
+ la_oenb[72] la_oenb[73] la_oenb[74] la_oenb[75] la_oenb[76] la_oenb[77] la_oenb[78]
+ la_oenb[79] la_oenb[7] la_oenb[80] la_oenb[81] la_oenb[82] la_oenb[83] la_oenb[84]
+ la_oenb[85] la_oenb[86] la_oenb[87] la_oenb[88] la_oenb[89] la_oenb[8] la_oenb[90]
+ la_oenb[91] la_oenb[92] la_oenb[93] la_oenb[94] la_oenb[95] la_oenb[96] la_oenb[97]
+ la_oenb[98] la_oenb[99] la_oenb[9] user_clock2 user_irq[0] user_irq[1] user_irq[2]
+ vccd1 vccd2 vdda1 vdda2 vssa1 vssa2 vssd1 vssd2 wb_clk_i wb_rst_i wbs_ack_o wbs_adr_i[0]
+ wbs_adr_i[10] wbs_adr_i[11] wbs_adr_i[12] wbs_adr_i[13] wbs_adr_i[14] wbs_adr_i[15]
+ wbs_adr_i[16] wbs_adr_i[17] wbs_adr_i[18] wbs_adr_i[19] wbs_adr_i[1] wbs_adr_i[20]
+ wbs_adr_i[21] wbs_adr_i[22] wbs_adr_i[23] wbs_adr_i[24] wbs_adr_i[25] wbs_adr_i[26]
+ wbs_adr_i[27] wbs_adr_i[28] wbs_adr_i[29] wbs_adr_i[2] wbs_adr_i[30] wbs_adr_i[31]
+ wbs_adr_i[3] wbs_adr_i[4] wbs_adr_i[5] wbs_adr_i[6] wbs_adr_i[7] wbs_adr_i[8] wbs_adr_i[9]
+ wbs_cyc_i wbs_dat_i[0] wbs_dat_i[10] wbs_dat_i[11] wbs_dat_i[12] wbs_dat_i[13] wbs_dat_i[14]
+ wbs_dat_i[15] wbs_dat_i[16] wbs_dat_i[17] wbs_dat_i[18] wbs_dat_i[19] wbs_dat_i[1]
+ wbs_dat_i[20] wbs_dat_i[21] wbs_dat_i[22] wbs_dat_i[23] wbs_dat_i[24] wbs_dat_i[25]
+ wbs_dat_i[26] wbs_dat_i[27] wbs_dat_i[28] wbs_dat_i[29] wbs_dat_i[2] wbs_dat_i[30]
+ wbs_dat_i[31] wbs_dat_i[3] wbs_dat_i[4] wbs_dat_i[5] wbs_dat_i[6] wbs_dat_i[7] wbs_dat_i[8]
+ wbs_dat_i[9] wbs_dat_o[0] wbs_dat_o[10] wbs_dat_o[11] wbs_dat_o[12] wbs_dat_o[13]
+ wbs_dat_o[14] wbs_dat_o[15] wbs_dat_o[16] wbs_dat_o[17] wbs_dat_o[18] wbs_dat_o[19]
+ wbs_dat_o[1] wbs_dat_o[20] wbs_dat_o[21] wbs_dat_o[22] wbs_dat_o[23] wbs_dat_o[24]
+ wbs_dat_o[25] wbs_dat_o[26] wbs_dat_o[27] wbs_dat_o[28] wbs_dat_o[29] wbs_dat_o[2]
+ wbs_dat_o[30] wbs_dat_o[31] wbs_dat_o[3] wbs_dat_o[4] wbs_dat_o[5] wbs_dat_o[6]
+ wbs_dat_o[7] wbs_dat_o[8] wbs_dat_o[9] wbs_sel_i[0] wbs_sel_i[1] wbs_sel_i[2] wbs_sel_i[3]
+ wbs_stb_i wbs_we_i
Xadc_0 adc_0/V_IN adc_0/BIAS2 adc_0/BIAS1 io_analog[2] la_data_in[121] la_data_in[120]
+ adc_0/OUTx0x la_data_in[122] la_data_in[123] adc_0/OUTx3x la_data_in[124] la_data_in[125]
+ adc_0/OUTx5x la_data_in[126] la_data_in[127] adc_0/OUTx7x adc_0/OUTx1x gpio_analog[12]
+ adc_0/OUTx6x vccd1 vssa2 adc_0/OUTx4x adc_0/OUTx2x adc
Xbias_cell_0 io_analog[9] io_analog[8] io_analog[7] io_analog[6] io_analog[10] adc_0/BIAS1
+ adc_0/BIAS2 gpio_analog[7] io_analog[4] io_analog[5] 8bit_sens_0/SA_IREF io_analog[3]
+ vccd2 vssa2 bias_cell
X8bit_sens_0 adc_0/OUTx1x adc_0/OUTx0x adc_0/OUTx2x adc_0/OUTx3x adc_0/OUTx4x adc_0/OUTx5x
+ adc_0/OUTx6x adc_0/OUTx7x la_data_out[1] la_data_out[2] la_data_out[3] la_data_out[4]
+ la_data_out[5] la_data_out[6] la_data_out[7] la_data_out[8] 8bit_sens_0/SA_IREF
+ gpio_analog[13] vccd1 vssa2 8bit_sens
C0 io_analog[3] io_analog[4] 14.51fF
C1 la_data_out[7] la_data_out[6] 38.74fF
C2 adc_0/BIAS1 8bit_sens_0/SA_IREF 9.04fF
C3 io_analog[7] vccd2 10.12fF
C4 io_analog[5] io_analog[6] 5.39fF
C5 io_analog[2] vccd2 10.71fF
C6 vccd1 la_data_in[124] 2.16fF
C7 la_data_in[123] la_data_in[124] 30.97fF
C8 la_data_in[122] vccd1 2.54fF
C9 la_data_in[122] la_data_in[123] 32.99fF
C10 io_analog[8] io_analog[7] 3.50fF
C11 la_data_in[125] la_data_in[124] 40.36fF
C12 la_data_in[120] vccd1 75.78fF
C13 io_analog[7] io_analog[6] 2.42fF
C14 la_data_in[126] la_data_in[127] 27.40fF
C15 la_data_in[127] vccd1 2.11fF
C16 io_analog[5] io_analog[4] 15.91fF
C17 la_data_out[5] la_data_out[6] 40.26fF
C18 la_data_out[3] la_data_out[2] 23.11fF
C19 la_data_out[5] la_data_out[4] 41.43fF
C20 la_data_in[121] vccd1 4.93fF
C21 io_analog[2] vccd1 2.22fF
C22 adc_0/BIAS1 adc_0/BIAS2 30.55fF
C23 8bit_sens_0/SA_IREF gpio_analog[7] 4.47fF
C24 la_data_out[1] la_data_out[2] 27.41fF
C25 la_data_in[126] vccd1 2.17fF
C26 adc_0/BIAS1 io_analog[2] 2.53fF
C27 la_data_in[123] vccd1 2.14fF
C28 io_analog[5] vccd2 2.11fF
C29 io_analog[10] vccd2 13.80fF
C30 vccd2 io_analog[6] 12.76fF
C31 la_data_in[126] la_data_in[125] 41.93fF
C32 la_data_in[125] vccd1 2.10fF
C33 la_data_out[3] la_data_out[4] 43.18fF
C34 la_data_in[122] la_data_in[121] 49.58fF
C35 la_data_out[7] la_data_out[8] 37.02fF
C36 la_data_in[121] la_data_in[120] 86.33fF
C37 vssa1 vssa2 23.98fF
C38 vssd1 vssa2 11.99fF
C39 vssd2 vssa2 13.63fF
C40 vdda1 vssa2 23.98fF
C41 vdda2 vssa2 11.99fF
C42 io_analog[0] vssa2 6.28fF
C43 io_analog[1] vssa2 6.28fF
C44 io_clamp_high[0] vssa2 2.62fF
C45 io_clamp_low[0] vssa2 2.62fF
C46 io_clamp_high[1] vssa2 2.62fF
C47 io_clamp_low[1] vssa2 2.62fF
C48 io_clamp_high[2] vssa2 2.62fF
C49 io_clamp_low[2] vssa2 2.62fF
C50 io_analog[10] vssa2 41.15fF
C51 la_data_out[2] vssa2 47.84fF
C52 la_data_out[1] vssa2 74.10fF
C53 la_data_out[8] vssa2 88.64fF
C54 vccd1 vssa2 2024.83fF
C55 8bit_sens_0/SA_IREF vssa2 182.85fF
C56 gpio_analog[13] vssa2 46.84fF
C57 la_data_out[7] vssa2 64.51fF
C58 la_data_out[6] vssa2 62.06fF
C59 la_data_out[5] vssa2 60.58fF
C60 la_data_out[4] vssa2 55.08fF
C61 la_data_out[3] vssa2 52.51fF
C62 io_analog[8] vssa2 42.36fF
C63 io_analog[9] vssa2 22.08fF
C64 io_analog[6] vssa2 133.71fF
C65 io_analog[7] vssa2 83.89fF
C66 gpio_analog[7] vssa2 131.88fF
C67 io_analog[3] vssa2 189.27fF
C68 io_analog[4] vssa2 158.11fF
C69 io_analog[5] vssa2 114.32fF
C70 vccd2 vssa2 322.78fF
C71 adc_0/BIAS2 vssa2 161.84fF
C72 adc_0/BIAS1 vssa2 141.59fF
C73 io_analog[2] vssa2 984.46fF
C74 la_data_in[123] vssa2 281.79fF
C75 la_data_in[122] vssa2 263.34fF
C76 la_data_in[121] vssa2 237.68fF
C77 la_data_in[120] vssa2 218.66fF
C78 la_data_in[127] vssa2 318.43fF
C79 gpio_analog[12] vssa2 56.91fF
C80 la_data_in[126] vssa2 291.01fF
C81 la_data_in[125] vssa2 274.61fF
C82 la_data_in[124] vssa2 279.97fF
.ends

